US20010047031A1
To a 2-3° C. suspension of methyltriphenylphosphonium bromide (0.36 g, 1 mmol) in THF (2.5 ml) was added dropwise n-BuLi (0.69 ml, 1.1 mmol, 1.6 M in hexan). After 1 hour stirring at 0° C., a solution of 3-phenyl-cyclobutanone (0.146 g, 1 mmol) in THF (1.5 ml) was added dropwise. The reaction mixture was stirred 24 hours at room temperature and then diluted with hexane. The so obtained precipitate was filtered and the filtrate was concentrated. The residue was chromatographed over silica gel (hexane-ethylacetate 9:1) to provide (3-methylene-cyclobutyl)-benzene (57 mg, 40%) as a slightly yellow oil, MS: m/e=144.1 (M+).

reactant | n-BuLi | 1.1 mmol, 1.6 M, 0.69 ml | [Li]CCCC
reactant | 3-phenyl-cyclobutanone | 1 mmol, 0.146 g | C1(=CC=CC=C1)C1CC(C1)=O | C10H10O
catalyst | methyltriphenylphosphonium bromide | 1 mmol, 0.36 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 2.5 ml | C1CCOC1 | C4H8O
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | (3-methylene-cyclobutyl)-benzene | 57 mg, 40% | C=C1CC(C1)C1=CC=CC=C1 | C11H12
